US09229007B2
2-(2′-hydroxy-3′-methoxyphenyl)benzothiazole (HMBT)
HMBT was synthesized according to a previous reported method with minor modifications (Guo et al., Chin. Chem. Lett. 2009, 20, 1408-1410. A solution of 2-aminothiophenol (0.3 mL, 4.2 mmol) and o-vanillin (0.48 g, 3.15 mmol) in EtOH (10 mL), aq H2O2 (30%, 18.9 mmol) and aq HCl (37%, 9.45 mmol) was stirred at room temperature for 90 min. The solution was quenched by 10 mL H2O. The precipitate was filtered, dried under vacuum and recrystallized from EtOH to afford the desired product as a light yellow solid (0.64 g, 79% yield). 1H NMR (CDCl3, 400 MHz), δ (ppm): 12.75 (s, 1H), 8.01 (d, 1H, J=7.6 Hz), 7.91 (d, 1H, J=7.2 Hz), 7.51 (t, 1H, J=6.8 Hz), 7.42 (t, 1H, J=7.2 Hz), 7.33 (dd, 1H, J1=1.2 Hz, J2=8.0 Hz), 6.99 (dd, 1H, J1=1.2 Hz, J2=8.0 Hz), 6.91 (t, 1H, J=8.0 Hz), 3.96 (s, 1H). 13C NMR (CDCl3, 100 MHz), δ 169,74, 151.86, 149.13, 148.29, 136.47, 132.70, 126.80, 125.66, 122.36, 121.59, 120.11, 119.23, 116.86, 114.21, 56.36. ESI-FTMS m/z=258.0587 [M+H]+, calc. 258.0589 for C14H12NO2S.

reactant | 2-aminothiophenol | 4.2 mmol, 0.3 mL | NC1=C(C=CC=C1)S | C6H7NS
reactant | o-vanillin | 3.15 mmol, 0.48 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | H2O2 | 18.9 mmol | OO | H2O2
reactant | HCl | 9.45 mmol | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-(2′-hydroxy-3′-methoxyphenyl)benzothiazole | 0.64 g, 79% yield | OC1=C(C=CC=C1OC)C=1SC2=C(N1)C=CC=C2 | C14H11NO2S
